US09371320B2
B) 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid
To a solution of methyl 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate (111 mg) in methanol (10 mL) was added 1N aqueous sodium hydroxide solution (2 mL) under ice-cooling, and the mixture was stirred at 50° C. for 4 hr. The reaction mixture was concentrated under reduced pressure to evaporate the methanol, and the mixture was partitioned between ethyl acetate and 1N hydrochloric acid (5 mL). The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (107 mg).

reactant | methyl 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 111 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)OC | C18H18BrN3O3S
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid | 107 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)O | C17H16BrN3O3S
